US06355799B1
Preparation of 3-[4-chloro-6fluoro-3-methoxy-2-(2-naphthoyloxy)phenyl]-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione (Compound no. 16-7)
3-(4-chloro-6-fluoro-2-hydroxy-3-methoxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione (0.10 g, 0.27 mmol) was dissolved in dioxane (10 ml) and the solution added with 2-naphthoyl chloride (0.062 g, 0.33 mmol), triethylamine (0.033 g, 0.33 mmol). After stirred for 2 hr, solvent was evaporated and the residue purified by column chromatography (silica gel, hexane/ether=4/1). Yield: 0.12 g, 0.23 mmol.

reactant | 3-(4-chloro-6-fluoro-2-hydroxy-3-methoxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | 0.27 mmol, 0.10 g | ClC1=C(C(=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)O)OC | C13H9ClF4N2O4
reactant | 2-naphthoyl chloride | 0.33 mmol, 0.062 g | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | triethylamine | 0.33 mmol, 0.033 g | C(C)N(CC)CC | C6H15N
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 3-[4-chloro-6fluoro-3-methoxy-2-(2-naphthoyloxy)phenyl]-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | ClC1=C(C(=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)OC(=O)C1=CC2=CC=CC=C2C=C1)OC | C24H15ClF4N2O5
